US05752982
Synthesis of 3-Methyl-6-Amino-7-Ethylindole
A mixture of 0.5 l of 96° ethanol, 0.5 l of glacial acetic acid and 100 g of hydrogen-reduced pure iron is heated to 90° C. 51 g of 3-methyl-6-nitro-7-ethylindole are added in portions over 15 minutes.

reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | 100 g | [H][H] | H2
reactant | 3-methyl-6-nitro-7-ethylindole | 51 g | CC1=CNC2=C(C(=CC=C12)[N+](=O)[O-])CC | C11H12N2O2
catalyst | iron | [Fe] | Fe
solvent | acetic acid | 0.5 l | C(C)(=O)O | C2H4O2
product | 3-Methyl-6-Amino-7-Ethylindole | CC1=CNC2=C(C(=CC=C12)N)CC | C11H14N2
